US04775692
Dimethyl methylphosphonate (5.89 g, 47.5 mmol) was dissolved in anhydrous THF (80 ml). To the resulting solution cooled to -78° C. under argon atomosphere, a solution of n-butyl lithium in hexane (1.63N, 29.1 ml, 47.5 mmol) was added and the mixture was stirred for 30 minutes. A solution of methyl 4,4-dimethylhexanoate (3.00 g, 19.0 mmol) in anhydrous THF (15 ml) was then added to the reaction mxiture at -78° C. and the mixture was stirred for 30 minutes. After warming the mixture to room temperature, acetic acid was added to neutralize the solution and a small quantity of water was then added, and concentrated. After ethyl acetate was added to the residue, the ethyl acetate layer was washed with water and with brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was distilled under reduced pressure to give oily product, dimethyl 5,5-dimethyl-2-oxoheptylphosphonate (3.38 g, 13.5 mmol, 71.1%, b.p.: 120°-122° C./0.18 mmHg). The structure was confirmed by the following data.

reactant | Dimethyl methylphosphonate | 47.5 mmol, 5.89 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 47.5 mmol, 1.63N, 29.1 ml | CCCCCC | C6H14
reactant | methyl 4,4-dimethylhexanoate | 19.0 mmol, 3.00 g | CC(CCC(=O)OC)(CC)C | C9H18O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | dimethyl 5,5-dimethyl-2-oxoheptylphosphonate | 13.5 mmol, 3.38 g, 71.1% | CC(CCC(CP(OC)(OC)=O)=O)(CC)C | C11H23O4P
